US04534905
For example, the industrially important 8-nitronaphthalene-1,3,6-trisulphonic acid (nitro-T-acid) is prepared by nitrating the isomer mixture of naphthalenetrisulphonic acids which is obtained in the trisulphonation of naphthalene with sulphuric acid and oleum and contains, as the main constituent, naphthalene-1,3,6-trisulphonic acid, with nitric acid in sulphuric acid, as the solvent (see F.I.A.T., Final Report 1016, pages 32-39). In the preparation process known from the literature, a procedure is followed in which the hot solution of the naphthalenetrisulphonic acids in sulphuric acid, which solution has a temperature of 150° to 155° C. and is obtained in the trisulphonation of naphthalene, is cooled to 100° C., diluted with water and cooled further to 80° C. The batch is then transferred to the nitration kettle, cooled in this kettle to 35° to 40° C. and nitrated with mixed acid (86% of nitric acid, 12% of sulphuric acid and 2% of water) at 35° to 40° C. in the course of about 10 hours.

reactant | naphthalene-1,3,6-trisulphonic acid | C1(=CC(=CC2=CC(=CC=C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H8O9S3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
